US04503045
3.0 Grams of 2'-deoxy-3',5'-di-O-palmitoyl-5-fluorouridine are dissolved in 25 ml of dry dioxane and the solution is ice cooled. 2 Milliliters of triethylamine and 1.9 g of 2,3-dimethoxybenzoyl chloride are added to the solution and the mixture is subjected to reaction at room temperature for 10 minutes and then at 70° C. for 90 minutes. The reaction liquid is cooled and the precipitated triethylamine hydrochloride is filtered off. The filtrate is concentrated under reduced pressure and the residue is dissolved under heating in ethanol and the solution is allowed to stand whereby crystals are obtained which, after recrystallization from ethanol, affords 2.95 g (yield: 80.2%) of 3-(2,3-dimethoxybenzoyl)-2'-deoxy-3',5'-di-O-palmitoyl-5-fluorouridine. M.P. 77°-78° C.

reactant | 2'-deoxy-3',5'-di-O-palmitoyl-5-fluorouridine | C(CCCCCCCCCCCCCCC)(=O)O[C@H]1C[C@@H](O[C@@H]1COC(CCCCCCCCCCCCCCC)=O)N1C(=O)NC(=O)C(=C1)F | C41H71FN2O7
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 2,3-dimethoxybenzoyl chloride | 1.9 g | COC1=C(C(=O)Cl)C=CC=C1OC | C9H9ClO3
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 3-(2,3-dimethoxybenzoyl)-2'-deoxy-3',5'-di-O-palmitoyl-5-fluorouridine | 2.95 g, yield: 80.2% | COC1=C(C(=O)N2C(N([C@H]3C[C@H](OC(CCCCCCCCCCCCCCC)=O)[C@@H](COC(CCCCCCCCCCCCCCC)=O)O3)C=C(C2=O)F)=O)C=CC=C1OC | C50H79FN2O10
